### PR TITLE
feat(Geometry/Convex): `WithTop X` is a convex space if `X` is

### PR DESCRIPTION
**Pull request by YaelDillies**
... by setting any convex combination that puts positive weight on `⊤`/`⊥` to `⊤`/`⊥`.

This will be used to talk about convex/concave functions to the extended real numbers.

Generated by Claude Opus, largely rewritten by hand afterwards.

Assisted-by: Claude Opus 5

---
- [x] depends on: #43610
- [ ] depends on: #43612
- [x] depends on: #43613

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Option.lean [hunk 1]
```diff
@@ -218,4 +235,30 @@ lemma optionElim_add [AddZeroClass M] (a b : α →₀ M) (i j : M) :
...
+
+This is `Finsupp.some` stated for `WithBot`, so that it dualises to `Finsupp.withTopSome`. -/]
+def withTopSome (f : WithTop α →₀ M) : α →₀ M := f.comapDomain (↑) WithTop.coe_injective.injOn
+
+@[to_dual (attr := simp)]
+lemma withTopSome_apply (f : WithTop α →₀ M) (a : α) : f.withTopSome a = f a := rfl
+
+@[to_dual]
+lemma sum_withTopSome [AddCommMonoid N] {f : WithTop α →₀ M} (hf : f ⊤ = 0)
+    (g : WithTop α → M → N) : (f.withTopSome.sum fun a ↦ g (a : WithTop α)) = f.sum g := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Option.lean]: Should this not be `to_additive`d?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 2]
```diff
@@ -171,6 +171,17 @@ lemma map_map (f : StdSimplex R M) (g₁ : M → N) (g₂ : N → P) :
     (f.map g₁).map g₂ = f.map (fun x ↦ g₂ (g₁ x)) :=
   (map_comp ..).symm
 
+/-- Since the weights of a `StdSimplex` are nonnegative, no cancellation can happen when pushing a
+distribution forward, so the support of the pushforward is the image of the support. -/
+@[simp↓] -- We want this to have high priority than `weights_map`
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Why? Can we change the statement of the LHS instead?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+open scoped Classical in
+/-- Adjoining a top element to a convex space gives a convex space in which `⊤` is absorbing:
+a convex combination putting positive weight on `⊤` is equal to `⊤`. -/
+@[to_dual (dont_translate := R)
+/-- Adjoining a bottom element to a convex space gives a convex space in which `⊥` is absorbing:
+a convex combination putting positive weight on `⊥` is equal to `⊥`. -/]
+instance : ConvexSpace R (WithTop X) :=
+  -- `c w` is `⊤` if `⊤` carries weight, and the combination of the remaining points otherwise.
+  let c : StdSimplex R (WithTop X) → WithTop X :=
+    fun w ↦ if hw : w.weights ⊤ = 0 then ↑(w.untop hw).sConvexComb else ⊤
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: nit:
```suggestion
  let c (w : StdSimplex R (WithTop X)) : WithTop X :=
    if hw : w.weights ⊤ = 0 then ↑(w.untop hw).sConvexComb else ⊤
```

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+  have hcoe (w : StdSimplex R X) : c (w.map WithTop.some) = ↑w.sConvexComb := by
+    simp [c, dite_eq_left <| mem_range_map_coe_withTop.1 ⟨w, rfl⟩]
+  have htop (w : StdSimplex R (WithTop X)) : c w = ⊤ ↔ w.weights ⊤ ≠ 0 :=
+    Ne.dite_eq_right_iff <| by simp
+  .mk c
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: Why not use the `{` notation here?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 5]
```diff
@@ -0,0 +1,124 @@
...
+  mpr hw := ⟨w.untop hw, map_untop_some w hw⟩
+
+end StdSimplex
+
+open StdSimplex
+
+section ConvexSpace
+variable [ConvexSpace R X] {w : StdSimplex R (WithTop X)}
+
+open scoped Classical in
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: nit: consider moving this inside `let c`

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: because it corresponds to `mk'`, which is the disfavored constructor. I wish there was a way to make it private, but this destroys all defeqs...

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: I just think that the current statement makes more sense than one with LHS `(mapDomain f s.weights).support`

Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Are we missing a lemma about when `(mapDomain f g).support = g.support.image f`?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: I'd maybe suggest using named arguments here, to bring back most of the readability that `{}` notation adds.

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+module
+
+public import Mathlib.Data.Finsupp.Option
+public import Mathlib.Geometry.Convex.ConvexSpace.Defs
+
+/-!
+# Adjoining a top or bottom element to a convex space
+
+Adjoining a top/bottom element to a convex space `X` again gives a convex space, by setting
+any convex combination that puts positive weight on `⊤`/`⊥` to `⊤`/`⊥`.
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:18]: Do we also want the raw `Option` version? Phrased another way, would the `Option` version be a bad idea, or is it just not useful enough to develop manually?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:18]: Not useful enough IMO. The WithTop and WithBot versions are justified by the fact that they will allow us to talk about extended convex functions

Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:18]: Could you add a remark to this comment to that effect?

File: Mathlib/Data/Finsupp/Basic.lean [hunk 7]
```diff
@@ -266,10 +270,13 @@ variable [AddCommMonoid M] {v v₁ v₂ : α →₀ M}
 /-- Given `f : α → β` and `v : α →₀ M`, `mapDomain f v : β →₀ M`
   is the finitely supported function whose value at `a : β` is the sum
   of `v x` over all `x` such that `f x = a`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Basic.lean]: let's keep the docstring aligned with the variables in the statement here

File: Mathlib/Data/Finsupp/Option.lean [hunk 8]
```diff
@@ -218,4 +235,30 @@ lemma optionElim_add [AddZeroClass M] (a b : α →₀ M) (i j : M) :
...
+
+This is `Finsupp.some` stated for `WithBot`, so that it dualises to `Finsupp.withTopSome`. -/]
+def withTopSome (f : WithTop α →₀ M) : α →₀ M := f.comapDomain (↑) WithTop.coe_injective.injOn
+
+@[to_dual (attr := simp)]
+lemma withTopSome_apply (f : WithTop α →₀ M) (a : α) : f.withTopSome a = f a := rfl
+
+@[to_additive (attr := to_dual)]
+lemma prod_withTopSome [CommMonoid N] {f : WithTop α →₀ M} (hf : f ⊤ = 0)
+    (g : WithTop α → M → N) : (f.withTopSome.prod fun a ↦ g (a : WithTop α)) = f.prod g := by
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Option.lean]:
```suggestion
lemma prod_withTopSome_add [CommMonoid N] {f : WithTop α →₀ M}
    (g : WithTop α → M → N) : (f.withTopSome.prod fun a ↦ g (a : WithTop α)) + f ⊤ = f.prod g := by
```
surely this is the statement we should prove first?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+namespace Convexity
+variable {R X : Type*} [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+
+namespace StdSimplex
+
+/-- Turn a distribution on `WithTop X` putting no weight on `⊤` into a distribution on `X`. -/
+@[expose, to_dual (dont_translate := R) (attr := simps)
+/-- Turn a distribution on `WithBot X` putting no weight on `⊥` into a distribution on `X`. -/]
+def untop (w : StdSimplex R (WithTop X)) (hw : w.weights ⊤ = 0) : StdSimplex R X where
+  weights := w.weights.withTopSome
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:42]: I'm surprised to see this definition in this form. I would instead have expected `hw` to be avoided, and to instead rescale all the other weights by (1 - w.weights ⊤). This has the advantage of giving a meaningful value in the cases where ⊤ has some weight (eg consider conditional prob dists), and is genuinely useful as such a construction.

Instead you'd need to handle the case where `w.weights ⊤` is not 1, but this is of course a strict generalisation!

File: Mathlib/Data/Finsupp/Basic.lean [hunk 10]
```diff
@@ -327,7 +334,13 @@ lemma mapDomain_sub {α β M : Type*} [AddCommGroup M] {v₁ v₂ : α →₀ M}
 theorem mapDomain_equiv_apply {f : α ≃ β} (x : α →₀ M) (a : β) :
     mapDomain f x a = x (f.symm a) := by
   conv_lhs => rw [← f.apply_symm_apply a]
-  exact mapDomain_apply f.injective _ _
+  exact mapDomain_apply_of_injective f.injective _ _
+
+@[simp] lemma support_mapDomain_of_nonneg [PartialOrder M] [IsOrderedAddMonoid M] [DecidableEq β]
+    {x : α →₀ M} (hx : 0 ≤ x) (f : α → β) : (mapDomain f x).support = x.support.image f := by
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Basic.lean]: imo this would make a lot more sense in Data/Finsupp/Order (even though the module docstring may appear otherwise!)

File: Mathlib/Data/Finsupp/Basic.lean [hunk 11]
```diff
@@ -266,10 +270,13 @@ variable [AddCommMonoid M] {v v₁ v₂ : α →₀ M}
...
-def mapDomain (f : α → β) (v : α →₀ M) : β →₀ M :=
-  v.sum fun a => single (f a)
+def mapDomain (f : α → β) (x : α →₀ M) : β →₀ M :=
+  x.sum fun a => single (f a)
+
+lemma mapDomain_apply (f : α → β) (x : α →₀ M) (b : β) :
+    mapDomain f x b = x.sum fun a m ↦ single (f a) m b := by simp [mapDomain]
 
-@[simp] theorem mapDomain_apply {f : α → β} (hf : Function.Injective f) (x : α →₀ M) (a : α) :
+@[simp] theorem mapDomain_apply_of_injective {f : α → β} (hf : f.Injective) (x : α →₀ M) (a : α) :
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Basic.lean:273]: This rename should definitely be mentioned in the PR description because it will create errors in downstream repos, and I think also should be a separate PR to this one.

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 12]
```diff
@@ -0,0 +1,126 @@
...
+  nonneg x := w.weights_nonneg (x : WithTop X)
+  total := by rw [Finsupp.sum_withTopSome hw (g := fun _ r ↦ r)]; exact w.total
+
+@[to_dual (attr := simp) (dont_translate := R)]
+lemma map_untop_some (w : StdSimplex R (WithTop X)) (hw : w.weights ⊤ = 0) :
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: are you sure you want `w` to be explicit here and below?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 13]
```diff
@@ -0,0 +1,126 @@
...
+@[to_dual (dont_translate := R)
+/-- Adjoining a bottom element to a convex space gives a convex space in which `⊥` is absorbing:
+a convex combination putting positive weight on `⊥` is equal to `⊥`. -/]
+instance : ConvexSpace R (WithTop X) :=
+  let c (w : StdSimplex R (WithTop X)) : WithTop X :=
+    open scoped Classical in if hw : w.weights ⊤ = 0 then ↑(w.untop hw).sConvexComb else ⊤
+  have hcoe (w : StdSimplex R X) : c (w.map WithTop.some) = ↑w.sConvexComb := by
+    simp [c, dite_eq_left <| mem_range_map_withTopSome.1 ⟨w, rfl⟩]
+  have htop (w : StdSimplex R (WithTop X)) : c w = ⊤ ↔ w.weights ⊤ ≠ 0 := by
+    classical exact Ne.dite_eq_right_iff <| by simp
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]:
```suggestion
  let c (w : StdSimplex R (WithTop X)) : WithTop X :=
    open scoped Classical in if hw : w.weights ⊤ = 0 then (w.untop hw).sConvexComb else ⊤
  have hcoe (w : StdSimplex R X) : c (w.map WithTop.some) = w.sConvexComb := by
    simp [c, Finsupp.mapDomain_apply]
  have htop (w : StdSimplex R (WithTop X)) : c w = ⊤ ↔ w.weights ⊤ ≠ 0 := by simp [c]
```

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 14]
```diff
@@ -0,0 +1,126 @@
...
+      induction x with
+      | top => simp [htop]
+      | coe a => rw [← map_single, hcoe, sConvexComb_single])
+    (assoc := fun F ↦ by
+      classical
+      by_cases hF : ∀ v ∈ F.weights.support, v.weights (⊤ : WithTop X) = 0
+      · obtain ⟨G, rfl⟩ : F ∈ Set.range (map (map WithTop.some)) := by
+          refine mem_range_map_iff .. |>.2 fun w hw ↦ ?_
+          by_contra hw0
+          exact hw ⟨w.untop (hF w (Finsupp.mem_support_iff.2 hw0)), map_untop_some ..⟩
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]:
```suggestion
          grind [mem_range_map_iff, mem_range_map_withTopSome]
```

Comment (b-mehta) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: (in particular, it may be a good idea to use the api lemma that was made above)

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 15]
```diff
@@ -0,0 +1,126 @@
...
+          exact hF fun v hv ↦ not_not.1 fun h ↦ hc ⟨v, hv, h⟩
+        have h₁ : c (F.map c) = ⊤ := by simpa [htop, ← Finsupp.mem_support_iff] using hc
+        have h₂ : c F.sConvexComb = ⊤ := by
+          simp only [htop, weights_sConvexComb, Finsupp.sum, Finsupp.coe_finsetSum,
+            Finsupp.coe_smul, Finset.sum_apply, Pi.smul_apply, smul_eq_mul, ne_eq]
+          obtain ⟨v₀, hv₀, hv₀'⟩ := hc
+          exact (Finset.sum_pos' (fun d _ ↦ mul_nonneg (F.weights_nonneg d) (d.weights_nonneg ⊤))
+            ⟨v₀, hv₀, mul_pos ((F.weights_nonneg v₀).lt_of_ne' (Finsupp.mem_support_iff.1 hv₀))
+              ((v₀.weights_nonneg ⊤).lt_of_ne' hv₀')⟩).ne'
+        rw [h₁, h₂])
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]:
```suggestion
      · obtain ⟨v₀, hv₀, hv₀'⟩ : ∃ v, F.weights v ≠ 0 ∧ v.weights ⊤ ≠ 0 := by simpa using hF
        have h₂ : c F.sConvexComb = ⊤ := by
          simp only [htop, weights_sConvexComb, Finsupp.sum, Finsupp.coe_finsetSum,
            Finsupp.coe_smul, Finset.sum_apply, Pi.smul_apply, smul_eq_mul, ne_eq]
          exact (Finset.sum_pos' (fun d _ ↦ mul_nonneg (F.weights_nonneg d) (d.weights_nonneg ⊤))
            ⟨v₀, by simpa using hv₀, mul_pos ((F.weights_nonneg v₀).lt_of_ne' hv₀)
              (((v₀.weights_nonneg ⊤).lt_of_ne' hv₀'))⟩).ne'
        simpa [h₂, htop, ← Finsupp.mem_support_iff] using hF)
```
I think that chunk near the end is screaming for a positivity extension for weights, but that can be separate

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean [hunk 16]
```diff
@@ -0,0 +1,126 @@
...
+
+@[to_dual (dont_translate := R)]
+lemma sConvexComb_withTop_eq_some (hw : w.weights ⊤ = 0) :
+    sConvexComb w = ↑(w.untop hw).sConvexComb := dite_eq_left hw
+
+@[to_dual (attr := simp) (dont_translate := R)]
+lemma sConvexComb_withTop_eq_top : sConvexComb w = ⊤ ↔ w.weights ⊤ ≠ 0 := by
+  by_cases hw : w.weights ⊤ = 0
+  · simp [sConvexComb_withTop_eq_some hw, hw]
+  · simp [show sConvexComb w = ⊤ from dite_eq_right hw, hw]
```
Comment (b-mehta) [inline Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]:
```suggestion
  classical exact dite_eq_right_iff.trans (by simp)
```

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:42]: `R` is not a field here. Therefore this is not a generalisation at all! You can complain that we should also have the operation you are talking about over fields, but the operation I currently have is necessary for the theory of extended values over rings

File: Mathlib/Data/Finsupp/Option.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Option.lean]: I assume you mean `_mul`, not `_add`?

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean (hunk 9 above)
Comment (b-mehta) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean:42]: That's fair, let's add a comment for the field version too in that case

File: Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/WithTop.lean]: Yes, because `hw` is not a proof *obligation* here: it can be inferred from the type of the LHS

File: Mathlib/Data/Finsupp/Basic.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Basic.lean:273]: See #43610

File: Mathlib/Data/Finsupp/Basic.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Basic.lean]: See #43610
